US06515011B2
To a stirred solution of L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide (171 mg, 0.47 mmol), 2-hydroxy-3-ethylpentanoic acid (68 mg, 0.47 mmol), and NMM (51 μL, 0.47 mmol) in DMF (5 mL) at ambient temperature under nitrogen atmosphere was added BOP reagent (247 mg, 0.56 mmol). The mixture was stirred at ambient temperature for 18 h. The solvent was removed under reduced pressure. The residue was partitioned between EtOAc and saturated aqueous NaHCO3. The EtOAc layer was separated, dried over anhydrous Na2SO4, and filtered. The filtrate solvent was removed under reduced pressure and the residue was purified by preparative thick layer silica gel plate chromatography (2000 μM×20 cm×20 cm) developed with 5% MeOH in dichloromethane. Desired bands were removed and eluted with 5% MeOH in dichloromethane. The filtrate solvent was concentrated in vacuo to obtain 1-(3-ethyl-2-hydroxypentanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide was obtained as a yellow oil (200 mg; HPLC RT=3.45 min, method A; LC-MS m/z=496.1).

reactant | L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide | 0.47 mmol, 171 mg | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C18H26ClN3O3
reactant | 2-hydroxy-3-ethylpentanoic acid | 0.47 mmol, 68 mg | OC(C(=O)O)C(CC)CC | C7H14O3
reactant | NMM | 0.47 mmol, 51 μL | CN1CCOCC1 | C5H11NO
reactant | BOP reagent | 0.56 mmol, 247 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-(3-ethyl-2-hydroxypentanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide | C(C)C(C(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)O)CC | C25H38ClN3O5
